US07157464B2
Synthesis of 2-(4-Chloro-3-trifluoromethyl-5-methyl-pyrazol-1-yl)-1-[4-(2-chloro-5-methoxy-phenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Chloro-5-methoxyphenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.31 (d, 1H), 6.65 (m, 2H), 5.37 (s, 2H), 3.73 (s, 3H), 3.62 (m, 4H), 3.02 (m, 2H), 2.96 (m, 2H), 2.19 (s, 3H) ppm; MS (ES) M+H expect=451.1, found=451.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Chloro-5-methoxyphenyl)piperazine | ClC1=C(C=C(C=C1)OC)N1CCNCC1 | C11H15ClN2O
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-3-trifluoromethyl-5-methyl-pyrazol-1-yl)-1-[4-(2-chloro-5-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC(=C1)OC)Cl)C(F)(F)F | C18H19Cl2F3N4O2
